US04663347
A mixture of 3-methyl-4-hydroxy-5-propyl-7-chloro-benzofuran-2-carboxylic acid (0.5 gm; 1.9 mmole), potassium carbonate (0.26 gm; 1.9 mmole) and benzyl bromide (0.22 ml; 1.9 mmole) in acetone (100 ml) was refluxed for a period of 2 hours. The solids were filtered off and the filtrate was concentrated in vacuo. The residue was chromatographed on silica gel and eluted with 15% ethyl acetate in hexane to yield 200 mg (30%) of benzyl 3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran-2-carboxylate, m.p. 119°-120° C.

reactant | 3-methyl-4-hydroxy-5-propyl-7-chloro-benzofuran-2-carboxylic acid | 1.9 mmole, 0.5 gm | CC1=C(OC2=C1C(=C(C=C2Cl)CCC)O)C(=O)O | C13H13ClO4
reactant | potassium carbonate | 1.9 mmole, 0.26 gm | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.9 mmole, 0.22 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | benzyl 3-methyl-4-hydroxy-5-propyl-7-chlorobenzofuran-2-carboxylate | 200 mg, 30% | CC1=C(OC2=C1C(=C(C=C2Cl)CCC)O)C(=O)OCC2=CC=CC=C2 | C20H19ClO4
